US05958942
3,4-Dihydro-3-[5-(tert-butoxycarbonylamino)pentan-1-yl]-1,3,7b-triazacyclopent[cd]inden-4-one
To a suspension of 29 mg (0.077 mmol) of 3,4-dihydro-3-[5-(phthalimido)pentan-1-yl]-1,3,7b-triazacyclopent[cd]inden-4-one in 5 ml of ethanol was added 24 mg (0.048 mmol) of hydrazinemonohydrate. The mixture was stirred for three hours under reflux. After cooling, the solvent was distilled off. To the residue was added 2 ml of chloroform. To the mixture were added 80 mg (0.37 mmol) of di-tert-butyl dicarbonate and 100 mg (0.99 mmol) of triethylamine, and stirred for 14 hours at room temperature. The reaction mixture was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate/ethanol=10:1) to afford 18 mg (67.4%, a colorless solid) the desired compound.

reactant | 3,4-dihydro-3-[5-(phthalimido)pentan-1-yl]-1,3,7b-triazacyclopent[cd]inden-4-one | 0.077 mmol, 29 mg | C1(C=2C(C(N1CCCCCN1C(C=3N4C1=CN=C4C=CC3)=O)=O)=CC=CC2)=O | C21H18N4O3
reactant | di-tert-butyl dicarbonate | 0.37 mmol, 80 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.99 mmol, 100 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3,4-Dihydro-3-[5-(tert-butoxycarbonylamino)pentan-1-yl]-1,3,7b-triazacyclopent[cd]inden-4-one | C(C)(C)(C)OC(=O)NCCCCCN1C(C=2N3C1=CN=C3C=CC2)=O | C18H24N4O3
